US03978097
5-Isopropoxy-3-methyl-1-pentanol
21 g (0.375 mol) of potassium hydroxide are added to 50.5 g (0.25 mol) of 1-acetoxy-5-isopropoxy-3-methylpentane, dissolved in 300 cc of methanol. The mixture is boiled at reflux for 1 hour, concentrated by evaporation to 20 cc at 30°C and 150 cc of water are added. The mixture is extracted with chloroform. The chloroform extract is washed with water, dried with sodium sulphate and evaporated. The residue is distilled at 20 mm Hg. Gas-chromatographically pure 5-isopropoxy-3-methyl-1-pentanol, having a B.P. of 118°-120° /20 mm Hg, is obtained. nD20 = 1.4371.

reactant | potassium hydroxide | 0.375 mol, 21 g | [OH-].[K+]
reactant | 1-acetoxy-5-isopropoxy-3-methylpentane | 0.25 mol, 50.5 g | C(C)(=O)OCCC(CCOC(C)C)C | C11H22O3
solvent | methanol | 300 cc | CO | CH4O
product | 5-Isopropoxy-3-methyl-1-pentanol | C(C)(C)OCCC(CCO)C | C9H20O2
